US04001254
91.4 g of 2-benzylthio-5-nitropyridine is dissolved in 1 liter of dimethylformamide and, after addition of 20 g of Raney nickel, hydrogenated at room temperature and at 20°-30° until the reaction is completed. The Raney nickel is filtered off under nitrogen by suction; the solvent is then evaporated off under vacuo to obtain 2-benzylthio-5-amino-pyridine, which is used direct for the subsequent thiophosgenisation.

reactant | 2-benzylthio-5-nitropyridine | 91.4 g | C(C1=CC=CC=C1)SC1=NC=C(C=C1)[N+](=O)[O-] | C12H10N2O2S
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | 2-benzylthio-5-amino-pyridine | C(C1=CC=CC=C1)SC1=NC=C(C=C1)N | C12H12N2S
